US07312181B2
To a solution of 1.0 gm (3.45 mmol) of methyl 3-(3-chlorobenzamido)benzoate in 24 mL of tetrahydrofuran was added 1.18 mL (34.5 mmol) of hydrazine hydrate. The reaction was heated overnight at 65° C. After cooling, the reaction mixture was concentrated under rotevaporation, and ether and water were added. The solid product was separated by filtration and dried in vacuo to give 3-(3-chlorobenzamido)benzhydrazide. MS m/z: 290.0 (M+H).

reactant | methyl 3-(3-chlorobenzamido)benzoate | 3.45 mmol, 1.0 gm | ClC=1C=C(C(=O)NC=2C=C(C(=O)OC)C=CC2)C=CC1 | C15H12ClNO3
reactant | hydrazine hydrate | 34.5 mmol, 1.18 mL | O.NN
solvent | tetrahydrofuran | 24 mL | O1CCCC1 | C4H8O
product | 3-(3-chlorobenzamido)benzhydrazide | ClC=1C=C(C(=O)NC=2C=C(C(=O)NN)C=CC2)C=CC1 | C14H12ClN3O2
